US04797493
20 ml of anisaldehyde, 50 ml of acetic anhydride, 33.7 g of hippuric acid and 6.7 g of sodium acetate were mixed well and heated on a water bath for 30 minutes. The precipitated crystals were washed with hot water and then filtered. They were then recrystallized from benzene and dried to obtain 40 g of 2-phenyl-4-(4-methoxybenzylidene)-5-oxazolone. Yield: 83%.

reactant | anisaldehyde | 20 ml | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | hippuric acid | 33.7 g | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
reactant | sodium acetate | 6.7 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-phenyl-4-(4-methoxybenzylidene)-5-oxazolone | 40 g, Yield: 83% | C1(=CC=CC=C1)C=1OC(C(N1)=CC1=CC=C(C=C1)OC)=O | C17H13NO3
